US04824958
Methyl 3-(1-methylethoxy)-5-methyl-2-thiophenecarboxylate.
Methyl 3-hydroxy-5-methyl-2-thiophenecarboxylate (20.0 g, 116 mmoles) is dissolved in acetonitrile (450 mL) under argon. Triisopropylisourea (86.6 g, 465 mmoles) is added and the mixture stirred and heated under reflux. After 24 hours the mixture is cooled and the precipitate filtered off, rinsed with cold MeCN and discarded. The filtrate is stripped of solvent by rotary evaporator, then the excess triisopropylisourea is removed by distillation under reduced pressure. The remaining residue is dissolved in a small amount of ethyl acetate, cooled, filtered, and passed through a short column of silica gel. Evaporation of the effluent under reduced pressure leaves the product as an oil (18.8 g) sufficiently pure for further use.

reactant | Methyl 3-hydroxy-5-methyl-2-thiophenecarboxylate | 116 mmoles, 20.0 g | OC1=C(SC(=C1)C)C(=O)OC | C7H8O3S
reactant | Triisopropylisourea | 465 mmoles, 86.6 g | C(C)(C)N=C(N(C(C)C)C(C)C)O | C10H22N2O
solvent | acetonitrile | 450 mL | C(C)#N | C2H3N
product | Methyl 3-(1-methylethoxy)-5-methyl-2-thiophenecarboxylate | 18.8 g | CC(C)OC1=C(SC(=C1)C)C(=O)OC | C10H14O3S
